US09447118B2
(1R,2R,4S)-2-{[(Benzyloxycarbonyl) sulfamoyl]amino}-4-(dimethylcarbamoyl)cyclohexyl methanesulfonate
Benzyl {[(1R,2R,5S)-5-(dimethylcarbamoyl)-2-hydroxycyclohexyl]sulfamoyl}carbamate (1.00 g) was added to methylene chloride (10 ml), and the obtained solution was then cooled to approximately 0° C. Triethylamine (0.52 ml) was added to the reaction solution, and methanesulfonyl chloride (0.28 ml) was then added dropwise to the mixed solution. The obtained mixture was stirred for approximately 1 hour. The precipitated crystals were collected by filtration, and were then washed with methylene chloride (1 ml). The obtained crystals were dried under reduced pressure to obtain 866 mg of the title compound (yield: 72%).

reactant | Benzyl {[(1R,2R,5S)-5-(dimethylcarbamoyl)-2-hydroxycyclohexyl]sulfamoyl}carbamate | 1.00 g | CN(C(=O)[C@H]1CC[C@H]([C@@H](C1)NS(=O)(=O)NC(OCC1=CC=CC=C1)=O)O)C | C17H25N3O6S
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | methanesulfonyl chloride | 0.28 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | Triethylamine | 0.52 ml | C(C)N(CC)CC | C6H15N
product | (1R,2R,4S)-2-{[(Benzyloxycarbonyl) sulfamoyl]amino}-4-(dimethylcarbamoyl)cyclohexyl methanesulfonate | 866 mg, yield: 72% | CS(=O)(=O)O[C@H]1[C@@H](C[C@H](CC1)C(N(C)C)=O)NS(NC(=O)OCC1=CC=CC=C1)(=O)=O | C18H27N3O8S2
